US04894386
A mixture of E,E-indole-3,6-diacrylic acid (1 g), 4-dimethylaminopyridine (1.19 g), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (1.86 g) and pyrrolidine (0.69 g) was dissolved in N,N-dimethylformamide (35 ml), and stirred under an atmosphere of nitrogen. Additional portions (10% by weight) of each of the reagents were added at the end of each 24 hour period (five times) until TLC monitoring indicated completion of the reaction after 6 days. The mixture was added slowly to vigorously-stirred 2M hydrochloric acid (100 ml); the precipitate was isolated by filtration, washed with water and dried under vacuum to give E,E-3,6-di(3-oxo-3-pyrrolidino-1-propenyl)indole (0.98 g, 69%) as a yellow powder; mp 268°-270° C.; partial NMR (250 MHz, DMSO-d6): 1.70°-2.02 (m, 8H, pyrrolidino H), 3.41(m, 4H, pyrrolidino H), 3.66(m, 4H, pyrrolidino H); 6.75(d, J=15.6 Hz, 1H, olefinic H); 6.94(d, J=15.5 Hz, 1H, olefinic H); 11.76(br s, 1H, NH-indole).

reactant | E,E-indole-3,6-diacrylic acid | 1 g | N1C=C(C2=CC=C(C=C12)/C=C/C(=O)O)/C=C/C(=O)O | C14H11NO4
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.86 g | Cl.CN(CCCN=C=NCC)C
reactant | pyrrolidine | 0.69 g | N1CCCC1 | C4H9N
reactant | hydrochloric acid | 2M, 100 ml | Cl | ClH
catalyst | 4-dimethylaminopyridine | 1.19 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | N,N-dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
product | E,E-3,6-di(3-oxo-3-pyrrolidino-1-propenyl)indole | 0.98 g, 69% | O=C(/C=C/C1=CNC2=CC(=CC=C12)\C=C\C(=O)N1CCCC1)N1CCCC1 | C22H25N3O2
